US08236826B2
Production of ethyl N-(4-hydroxyphenyl)isonipecotate
To a solution of ethyl N-(4-methoxyphenyl)-isonipecotate (2.63 g, 10 mmol) in dichloromethane (100 mL) was added a solution of 2 M boron tribromide in dichloromethane (20 mL, 40 mmol), and the resulting solution was stirred for 0.5 hours at room temperature. The resulting reaction solution was poured into ice water, then an aqueous solution of 1 M sodium hydroxide (110 mL) was added to the solution. After stirring, the resulting solution was separated. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure to thereby yield 2.43 g of the title compound.

reactant | ethyl N-(4-methoxyphenyl)-isonipecotate | 10 mmol, 2.63 g | COC1=CC=C(C=C1)N1CCC(C(=O)OCC)CC1 | C15H21NO3
reactant | boron tribromide | 2 M | B(Br)(Br)Br | BBr3
reactant | sodium hydroxide | 1 M, 110 mL | [OH-].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mmol, 20 mL | ClCCl | CH2Cl2
product | ethyl N-(4-hydroxyphenyl)isonipecotate | OC1=CC=C(C=C1)N1CCC(C(=O)OCC)CC1 | C14H19NO3
